US09079866B2
6-Amino-3-[2′-(cyclopropylsulfonyl)-3-fluorobiphenyl-4-yl]pyrazine-2-carbonitrile
The title compound was prepared using conditions analogous to those used to make Example 6 utilizing 6-amino-3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile and 1-bromo-2-(cyclopropylsulfonyl)benzene. MS (ESI): mass calcd. for C20H15FN4O2S, 394.09; m/z found, 395.0 [M+H]+. 1H NMR (600 MHz, DMSO-δ6) δ 8.26 (s, 1H), 8.07 (dd, J=8.0, 1.3, 1H), 7.82-7.77 (m, 1H), 7.74-7.69 (m, 1H), 7.66-7.62 (m, 1H), 7.52 (dd, J=7.6, 1.3, 1H), 7.44 (dd, J=10.8, 1.7, 1H), 7.41-7.36 (m, 3H), 2.47-2.41 (m, 1H), 0.99-0.91 (m, 2H), 0.90-0.83 (m, 2H).

reactant | 6-amino-3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile | NC1=CN=C(C(=N1)C#N)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C17H18BFN4O2
reactant | 1-bromo-2-(cyclopropylsulfonyl)benzene | BrC1=C(C=CC=C1)S(=O)(=O)C1CC1 | C9H9BrO2S
product | 6-Amino-3-[2′-(cyclopropylsulfonyl)-3-fluorobiphenyl-4-yl]pyrazine-2-carbonitrile | NC1=CN=C(C(=N1)C#N)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C1CC1)F | C20H15FN4O2S
